US03982007
2-(4-chlorophenyl)-3-(5-nitro-2-thienyl)acrolein
1-(4-chlorophenyl)-2-methoxyethylene is reacted in analogous manner with 5-nitrothiophene-2-aldehyde, and the title compound is obtained in the form of brown crystals having a M.P. of 135°-136°, after purification by column chromatography over silica gel with toluene.

reactant | 1-(4-chlorophenyl)-2-methoxyethylene | ClC1=CC=C(C=C1)C=COC | C9H9ClO
reactant | 5-nitrothiophene-2-aldehyde | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
product | 2-(4-chlorophenyl)-3-(5-nitro-2-thienyl)acrolein | ClC1=CC=C(C=C1)C(C=O)=CC=1SC(=CC1)[N+](=O)[O-] | C13H8ClNO3S
